US06403601B1
(f) N-[2-(4-Chlorophenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide
To a stirred cooled (0° C.) mixture of 3-(4-chloropenyl)-N-methyl-4-amino-1-butanol (0.706 g, 3.30 mmol) in DCM (25 mL) and 1N NaOH (4.13 mL) was added dropwise a solution of 5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride (0.643 g, 3.30 mmol) in DCM (10 mL). The mixture was stirred at 0° C. for 2.5 h, H2O and DCM were added and the mixture was extracted with DCM (2×20 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. Purification by chromatography (0%, 50%, 100% EtOAc in Et2O) provided the title compound (1.11 g, 90%) as a solid. MS m/z 372 (M+H).

reactant | 3-(4-chloropenyl)-N-methyl-4-amino-1-butanol | 3.30 mmol, 0.706 g | ClC1=CC=C(C=C1)C(CCO)CNC | C11H16ClNO
reactant | 5,6,7,8-tetrahydro-1-naphthalenecarbonyl chloride | 3.30 mmol, 0.643 g | C1(=CC=CC=2CCCCC12)C(=O)Cl | C11H11ClO
reactant | H2O | O | H2O
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N, 4.13 mL | [OH-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(4-Chlorophenyl)-4-hydroxybutyl]-N-methyl-5,6,7,8-tetrahydro-1-naphthamide | 1.11 g, 90% | ClC1=CC=C(C=C1)C(CN(C(=O)C1=CC=CC=2CCCCC12)C)CCO | C22H26ClNO2
